US08044068B2
To a solution of 50% aqueous dimethyl amine (0.77 g) in ethanol (30 mL) was added 2,4-dichlorothieno[3,2-d]pyrimidine (1.00 g) with ice cooling, and the mixture was stirred for 12 h while heating to room temperature. The reaction mixture was concentrated under reduced pressure and diluted with chloroform and water, and then the aqueous layer was extracted with chloroform. The organic layer was washed with 1 M hydrochloric acid and saturated brine, then the organic layer was dried with anhydrous magnesium sulfate, then the desiccant was removed by filtration, the filtrate was concentrated under reduced pressure, and the residue was crystallized with diethyl ether to obtain 2-chloro-N,N-dimethylthieno[3,2-d]pyrimidin-4-amine (0.90 g). (2) A mixture of 2-chloro-N,N-dimethylthieno[3,2-d]pyrimidin-4-amine (0.60 g), (S)-1-(3-aminopyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone mono hydrochloride (2.70 g), N,N-diisopropylethylamine (1.80 g), and ethylene glycol (18 mL) was heated at 110° C. for 20 h with stirring. The reaction mixture was diluted with chloroform and water, and then the aqueous layer was extracted with chloroform. The organic layer was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (silica gel, chloroform/methanol, and NH silica gel, chloroform/methanol) and crystallized with diethyl ether to obtain white solid (S)-1-(3-(4-dimethylaminothieno[3,2-d]pyrimidin-2-ylamino)pyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone (0.16 g).

reactant | dimethyl amine | 0.77 g | CNC | C2H7N
reactant | 2,4-dichlorothieno[3,2-d]pyrimidine | 1.00 g | ClC=1N=C(C2=C(N1)C=CS2)Cl | C6H2Cl2N2S
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 2-chloro-N,N-dimethylthieno[3,2-d]pyrimidin-4-amine | 0.90 g | ClC=1N=C(C2=C(N1)C=CS2)N(C)C | C8H8ClN3S
